US05380861
A 250 ml autoclave is charged under an argon atmosphere with 50 ml of toluene, 5.2 ml (37.2 mmol) of triethylamine, 1.2 mg (0.0067 mmol) of palladium chloride, 5.6 mg (0.0135 mmol) of 1,3-bis(diphenylphosphino)propane, 6.5 g (40.56 mmol) of t-butyl (2-aminoethyl)carbamate and 5.0 g (33.8 mmol) of 2,5-dichloropyridine. After repeated evacuation and pressurization with 106Pa of nitrogen the autoclave is gassed with 106Pa of carbon monoxide and heated to 130° while stirring. After heating to 130° for 24 hours the autoclave is cooled, opened and discharged and the orange-brown suspension is filtered through 50 g of silica gel with a 1:1 mixture of toluene and ether as the eluting agent. The fractions containing the desired product (determined by thin-layer chromatography) are combined, evaporated to about 150 ml and stirred vigorously at 70° overnight with a solution of 2 mg of sodium cyanide in 25 ml of water in order to separate the palladium. Thereafter, the organic phase is separated, washed with water and evaporated. Crystallization of the solid residue from toluene/hexane yields 8.51 g (84%) of t-butyl [2-(5-chloropyridine-2-carboxamido)ethyl]carbamate as white crystals, m.p. 106°-108°.

reactant | triethylamine | 37.2 mmol, 5.2 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl (2-aminoethyl)carbamate | 40.56 mmol, 6.5 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | 2,5-dichloropyridine | 33.8 mmol, 5.0 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium chloride | 0.0067 mmol, 1.2 mg | [Pd](Cl)Cl
catalyst | 1,3-bis(diphenylphosphino)propane | 0.0135 mmol, 5.6 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | t-butyl [2-(5-chloropyridine-2-carboxamido)ethyl]carbamate | 8.51 g, 84% | ClC=1C=CC(=NC1)C(=O)NCCNC(OC(C)(C)C)=O | C13H18ClN3O3
